US04244966
A solution of sodium nitrite (3.19 g) in water (23.6 ml) is slowly added to a stirring solution of 6-methoxy-2-naphthol [8.0 g, prepared as described in Organic Synthesis 49, 90 (1969)] in acetic acid (46 ml) and water (4.6 ml) at 0° C. The resulting slurry is allowed to stand at room temperature for several hours and diluted with water. The solid is collected, washed, dried and crystallized from methanol to give 6-methoxy-1nitroso-2-naphthol, mp 147°-148° C.

reactant | sodium nitrite | 3.19 g | N(=O)[O-].[Na+]
reactant | 6-methoxy-2-naphthol | 8.0 g | COC=1C=C2C=CC(=CC2=CC1)O | C11H10O2
solvent | water | 23.6 ml | O | H2O
solvent | acetic acid | 46 ml | C(C)(=O)O | C2H4O2
solvent | water | 4.6 ml | O | H2O
product | 6-methoxy-1nitroso-2-naphthol | COC=1C=C2C=CC(=C(C2=CC1)N=O)O | C11H9NO3
